US08486950B2
A solution of N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide (1.41 g, 5 mmol) and 3-oxabicyclo[3.1.0]hexane-2,4-dione (2.24 g, 20 mmol) in 1,4-dioxane (25 mL) was heated at 90° C. for 4 hours. The reaction was cooled to room temperature and the precipitated white solid was collected by filtration to give 2,6-dichloro-N-(2-(−2,4-dioxo-3-azabicyclo[3.1.0]hexan-3-yl)pyridin-4-yl)benzamide (1.28 g, yield: 68%). 1H NMR (400 MHz, DMSO-d6) δ 11.42 (s, 1H), 8.47 (d, J=5.6 Hz, 1H), 7.69 (d, J=1.8 Hz, 1H), 7.67-7.59 (m, 3H), 7.55 (dd, J=9.2, 6.8 Hz, 1H), 2.74 (dd, J=8.0, 3.6 Hz, 2H), 1.69 (ddt, J=20.6, 8.1, 4.2 Hz, 2H). LCMS (ESI) m/z: 376.0 [M+H+].

reactant | N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide | 5 mmol, 1.41 g | NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
reactant | 3-oxabicyclo[3.1.0]hexane-2,4-dione | 20 mmol, 2.24 g | C12C(OC(C2C1)=O)=O | C5H4O3
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2,6-dichloro-N-(2-(−2,4-dioxo-3-azabicyclo[3.1.0]hexan-3-yl)pyridin-4-yl)benzamide | 1.28 g, yield: 68% | ClC1=C(C(=O)NC2=CC(=NC=C2)N2C(C3CC3C2=O)=O)C(=CC=C1)Cl | C17H11Cl2N3O3
